Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo woman with h/o hypertension, hyperlipidemia, diabetes 
mellitus on insulin therapy, h/o cerebellar-medullary stroke in 
___, CKD stage III-IV presenting with fatigue and dyspnea on 
exertion (DOE) for a few weeks, markedly worse this morning. 
Over the past few weeks, the patient noted DOE and shortness of 
breath (SOB) even at rest. She has also felt more tired than 
usual. She notes no respiratory issues like this before. She 
cannot walk up stair due to DOE, and feels SOB after only a 
short distance. She is unsure how long the episodes last, but 
states that her breathing improves with albuterol which she gets 
from her husband. She had a bad cough around a month ago, but 
denies any recent fevers, chills, or night sweats. No chest 
pain, nausea, or dizziness.
 
Past Medical History:
1. CAD RISK FACTORS: +Diabetes, +Dyslipidemia, +Hypertension
2. CARDIAC HISTORY: 
MI in ___
3. OTHER PAST MEDICAL HISTORY:  
Hypertension
Hyperlipidemia
Diabetes mellitus on insulin therapy
h/o cerebellar-medullary stroke in ___
CKD stage III-IV
PVD
 
Social History:
___
Family History:
Denies cardiac family history. Family hx of DM and HTN; 
otherwise non-contributory.
 
Physical Exam:
Admission exam:
GENERAL- Oriented x3. Mood, affect appropriate.
VS- T= 98.1 BP= 200/103 HR= 65 RR= 26 O2 sat= 100% on RA
HEENT- NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.
NECK- JVD to angle of mandible
CARDIAC- RR, normal S1, S2. No murmurs, rubs or gallops. No 
thrills, lifts.
LUNGS- Kyphosis. Resp were labored, mild exp wheezes 
bilaterally.
ABDOMEN- Soft, non-tender, not distended. Abd aorta not enlarged 
by palpation. No abdominal bruits.
EXTREMITIES- No clubbing, cyanosis or edema. No femoral bruits.
SKIN- No stasis dermatitis, ulcers, scars, or xanthomas.
NEURO- CNII-XII grossly intact. Strength ___ in LEs and UEs. 
Diminished sensation along lateral aspect of left leg to light 
touch

Discharge exam:
Lungs: CTAB
Otherwise unchanged
 
Pertinent Results:
Admission Labs
___ 01:18PM BLOOD WBC-6.4# RBC-3.15* Hgb-9.5* Hct-30.1* 
MCV-96 MCH-30.1 MCHC-31.5 RDW-14.1 Plt ___
___ 01:18PM BLOOD Glucose-150* UreaN-33* Creat-1.6* Na-144 
K-4.8 Cl-111* HCO3-18* AnGap-20
___ 01:18PM BLOOD CK(CPK)-245*
___ 01:18PM BLOOD cTropnT-0.05*
___ 01:18PM BLOOD CK-MB-6 proBNP-4571*
___ 03:56AM BLOOD Calcium-9.4 Phos-4.9* Mg-2.0 Cholest-230*

Pertinent Labs
___ 06:09AM BLOOD WBC-4.3 RBC-3.27* Hgb-9.9* Hct-31.4* 
MCV-96 MCH-30.4 MCHC-31.6 RDW-14.5 Plt ___
___ 06:09AM BLOOD Glucose-138* UreaN-31* Creat-1.4* Na-144 
K-4.3 Cl-107 HCO3-26 AnGap-15

___ 06:09AM BLOOD ALT-20 AST-17
___ 03:56AM BLOOD Triglyc-97 HDL-65 CHOL/HD-3.5 
LDLcalc-146*
___ 03:56AM BLOOD %HbA1c-8.1* eAG-186*

___ 01:18PM BLOOD CK(CPK)-245* CK-MB-6 cTropnT-0.05*
___ 08:43PM BLOOD CK(CPK)-198  CK-MB-5 cTropnT-0.03*
___ 03:56AM BLOOD CK(CPK)-173  CK-MB-5 cTropnT-0.04*
___ 06:09AM BLOOD                      cTropnT-0.01

___ 01:18PM proBNP-4571*

ECG ___  7:56:06 ___  
Baseline artifact. Sinus rhythm. The Q-T interval is 400 
milliseconds. Q waves in leads V1-V2 with ST-T wave 
abnormalities extending to lead V6. Consider prior anterior 
myocardial infarction. Since the previous tracing of ___ 
atrial premature beats are not seen. The Q-T interval is 
shorter. ST-T wave abnormalities are less prominent.  
 
CXR ___:
PA and lateral views of the chest demonstrate low lung volumes. 
Tiny bilateral pleural effusions are new since ___. No 
signs of pneumonia or pulmonary vascular congestion. Heart is 
top normal in size though this is stable. Aorta is markedly 
tortuous, unchanged. Aortic arch calcifications are seen. There 
is no pneumothorax. No focal consolidation. Partially imaged 
upper abdomen is unremarkable.
IMPRESSION: Tiny pleural effusions, new. Otherwise unremarkable.

ECHO ___:
The left atrium is mildly dilated. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). Right ventricular chamber size and free wall motion are 
normal. The diameters of aorta at the sinus, ascending and arch 
levels are normal. The aortic valve leaflets (3) are mildly 
thickened but aortic stenosis is not present. No masses or 
vegetations are seen on the aortic valve, but cannot be fully 
excluded due to suboptimal image quality. Trace aortic 
regurgitation is seen. The mitral valve leaflets are 
structurally normal. An eccentric, anteriorly directed jet of 
mild to moderate (___) mitral regurgitation is seen. Moderate 
[2+] tricuspid regurgitation is seen. There is moderate 
pulmonary artery systolic hypertension. The end-diastolic 
pulmonic regurgitation velocity is increased suggesting 
pulmonary artery diastolic hypertension. There is an anterior 
space which most likely represents a prominent fat pad.
IMPRESSION: Suboptimal image quality. Normal biventricular 
cavity sizes with preserved global and regional biventricular 
systolic function. Pulmonary artery hypertension. Mild-moderate 
mitral regurgitation. Moderate tricuspid regurgitation. 
Compared with the prior study (images reviewed) of ___, the 
severity of mitral and tricuspid regurgitation are increased and 
moderate PA hypertension is now identified.
 
Brief Hospital Course:
___ woman with h/o hypertension, hypelipidemia, diabetes 
mellitus on insulin, cerebellar-medullary stroke in ___, 
stage ___ CKD followed by Dr ___ presenting with fatigue and 
DOE for a few weeks, markedly worse the morning of admission. 
The patient has known diastolic dysfunction. Of note, she has 
been noncompliant with her medications at home. On arrival to 
the floor, she required hydralazine 20 mg to bring down her BP. 
She has likely had elevated BPs at home for a while, which is 
contributing to her SOB, CHF exacerbation, and secondary demand 
myonecrosis (hypertensive urgency) with mildly elevated 
troponin.

# CAD: Although she did not have a classic anginal presentation, 
patient has several risk factors for acute coronary syndrome. 
Her only symptom was SOB in the setting of elevated BPs 
attributed to medication noncompliance at home. Her troponin 
fell from 0.05 at admission to 0.01 at discharge in the setting 
of renal dysfunction, but there was not a clear rise and fall to 
suggest an acute infarction from plaque rupture and thrombosis. 
She was scheduled for an outpatient stress test to evaluate for 
evidence of ischemia from flow-limiting CAD. We decreased ASA to 
81 mg from 325 mg daily to decrease the risk of bleeding. Her 
LDL was found to be 146. We wanted to change her from 
simvastatin to the more potent atorvastatin (and avoid issues 
with drug-drug interactions), but her insurance would not cover 
atorvastatin. She was therefore switched to pravastatin 80 mg at 
discharge. From a cardiac standpoint, we did not feel that 
Plavix was necessary for CAD, but her neurologist was contacted 
and wanted Plavix continued. We had to stop metoprolol due to HR 
in the ___ during admission even off metoprolol.
  
# Pump: Last echo in ___ showed low normal LVEF. Her current 
presentation was consistent with CHF exacerbation with bilateral 
pleural effusions, dyspnea, and elevated NT-Pro-BNP. Her TTE 
showed mild-moderate mitral and moderate tricuspid 
regurgitation, LVEF 50-55%, and pulmonary hypertension. We 
changed her HCTZ to Lasix 40 mg PO at discharge. This medication 
can be uptitrated as needed.

# Hypertension: The patient's nephrologist, Dr. ___, agreed 
with our proposed medication adjustments, but recommended 
staying away from clonidine. There has been a H/O medication 
non-adherence. Social work was involved in discharge planning, 
and ___ will be assisting the patient at home. We added 
lisinopril 20 mg daily, Lasix 40 mg daily and continued 
nifedipine 120 mg daily. Her atenolol was stopped due to her 
renal dysfunction, but her metoprolol had to be stopped due to 
bradycardia. She should continue on once a day medication dosing 
to help with compliance.

# ? COPD: The patient may have a component of COPD as she was 
wheezing on admission and responded to albuterol. She was given 
a prescription for albuterol prn.

Transitional Issues:
- She will be scheduled for outpt stress stress test
- She has follow-up appointments with Dr. ___ and Dr. 
___ and both can work on uptitrating her BP 
meds as needed.
- ___ will need to work with patient on medication compliance.
 
Medications on Admission:
ATENOLOL - 100 mg Tablet - 1.5 Tablet(s) by mouth once a day 
CLONIDINE - 0.1 mg/24 hour Patch Weekly - place on shoulder once 
a week
CLOPIDOGREL [PLAVIX] - 75 mg Tablet - 1 Tablet(s) by mouth once 
a day generic is available preferable, please call Dr ___ 
an appointment  
FENOFIBRATE MICRONIZED - 134 mg Capsule - 1 Capsule(s) by mouth 
once a day
HYDROCHLOROTHIAZIDE - 25 mg Tablet - 1 (One) Tablet(s) by mouth 
once a day
NIFEDIPINE [NIFEDIAC CC] - 60 mg Tablet Extended Release - 2 
Tablet(s) by mouth once a day
NITROGLYCERIN [NITROSTAT] - 0.3 mg Tablet, Sublingual - 1 
Tablet(s) sublingually sl as needed for prn chest pain may use 3 
doses, 5 minutes apart; if no relief, ED visit 
RANITIDINE HCL - 300 mg Tablet - 1 Tablet(s) by mouth once a day
SIMVASTATIN - 80 mg Tablet - 1 Tablet(s) by mouth at bedtime

Medications - OTC  
ASPIRIN [ENTERIC COATED ASPIRIN] - 325 mg Tablet, Delayed 
Release (E.C.) - 1 (One) Tablet(s) by mouth once a day
INSULIN NPH & REGULAR HUMAN [HUMULIN 70/30] - 100 unit/mL 
(70-30) Suspension - 30 units at dinner at dinner
MULTIVITAMIN - (OTC) - Tablet - 1 Tablet(s) by mouth once a day
 
Discharge Medications:
1. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily). Disp:*30 Tablet(s)* Refills:*2*
2. nitroglycerin 0.4 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain: 
may take up to 3 over 15 minutes. Disp:*30 Tablet, 
Sublingual(s)* Refills:*0*
3. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
Disp:*30 Tablet(s)* Refills:*2*
4. ranitidine HCl 150 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily). Disp:*60 Tablet(s)* Refills:*2*
5. pravastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily). Disp:*30 Tablet(s)* Refills:*2*
6. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily). Disp:*30 Tablet, Chewable(s)* Refills:*2*
7. lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
Disp:*30 Tablet(s)* Refills:*2*
8. nifedipine 60 mg Tablet Extended Release Sig: Two (2) Tablet 
Extended Release PO DAILY (Daily). Disp:*30 Tablet Extended 
Release(s)* Refills:*2*
9. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
Disp:*30 Tablet(s)* Refills:*2*
10. insulin NPH & regular human 100 unit/mL (70-30) Insulin Pen 
Sig: Thirty (30) units Subcutaneous at dinner. Disp:*900 units* 
Refills:*2*
11. albuterol sulfate 90 mcg/actuation HFA Aerosol Inhaler Sig: 
___ puffs Inhalation every ___ hours as needed for shortness of 
breath or wheezing. Disp:*1 inhaler* Refills:*1*
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
-Hypertension with hypertensive urgency
-Myocardial infarction attributed to demand myonecrosis
-Acute on chronic left ventricular diastolic heart failure
-Chronic kidney disease, stage ___
-Chronic obstructive pulmonary disease
-Prior cerebellar-medullary stroke
-Hyperlipidemia
-Diabetes mellitus requiring insulin therapy
-Medication non-adherence
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___, 

You were admitted for shortness of breath. You were found to 
have elevated blood pressure on admission in the setting of not 
taking all of your medications regularly. We obtained an 
echocargiogram of your heart which showed some strain on your 
heart possibly related to your elevated blood pressures.

You will be contacted about an outpatient stress test. This will 
be completed within the next month.

You will be prescribed several new medications as shown below. A 
visiting nurse ___ come to your home to help with managing your 
medications. You should dispose of all your home medications and 
only take the medications shown on this discharge paperwork.

Medications:
STOP Hydrochlorothiazide
STOP Simvastatin
STOP Clonidine
STOP Atenolol due to low heart rate
CHANGE 325mg to 81mg once daily
START Lisinopril 20mg once daily
START Lasix 40mg once daily
START Pravastin 80mg once daily

If you experience any chest pain, excessive shortness of breath, 
or any other symptoms concerning to you, please call or come 
into the emergency department for further evaluation.

Thank you for allowing us at the ___ to participate in your care.
 
Followup Instructions:
___